US04410536
9-Isopropyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 15, from 11 g of 5-hydrazino-3-methylbenzothiophene hydrochloride and 10 g of 1-isopropyl-4-piperidone. Melting point: 199°-203° C.

reactant | 5-hydrazino-3-methylbenzothiophene hydrochloride | 11 g | Cl.N(N)C=1C=CC2=C(C(=CS2)C)C1
reactant | 1-isopropyl-4-piperidone | 10 g | C(C)(C)N1CCC(CC1)=O | C8H15NO
product | 9-Isopropyl-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(C)(C)N1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1 | C17H20N2S
